US07776897B2
3-[3-(Methoxymethoxy)-1-(2-thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (343 mg) was dissolved in acetic acid (3 ml) and then N-bromosuccinimide (193 mg) was added, followed by stirring at room temperature for 7 hours under light-shielding. The reaction solution was diluted with chloroform (40 ml) and then washed with water (10 ml), a 1M aqueous sodium hydroxide solution (10 ml), and brine (10 ml). The organic layer was dried and then concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (methanol:chloroform=2:98) to obtain 392 mg of 3-[1-(5-bromo-2-thienyl)-3-(methoxymethoxy)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (reddish purple syrup).

reactant | 3-[3-(Methoxymethoxy)-1-(2-thienyl)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 343 mg | COCOC1CC(C1)(C=1SC=CC1)C1=NN=C2N1CCCCCC2 | C18H25N3O2S
reactant | N-bromosuccinimide | 193 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[1-(5-bromo-2-thienyl)-3-(methoxymethoxy)cyclobutyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 392 mg | BrC1=CC=C(S1)C1(CC(C1)OCOC)C1=NN=C2N1CCCCCC2 | C18H24BrN3O2S
